US04154834
5-(3-Pyridylmethyl)-2-methylthio-4-pyrimidone (1.27 g) was reacted with 2-(3-bromo-2-pyridylmethylthio)-ethylamine (1.35 g) according to the procedure in Example 2. The reaction mixture was triturated with hot water to give 2-[2-(3-bromo-2-pyridylmethylthio)-ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone, and this product was treated with dilute hydrobromic acid to give the title compound, m.p. 217°-220.5° (ex-methanol)

reactant | 5-(3-Pyridylmethyl)-2-methylthio-4-pyrimidone | 1.27 g | N1=CC(=CC=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 2-(3-bromo-2-pyridylmethylthio)-ethylamine | 1.35 g | BrC=1C(=NC=CC1)CSCCN | C8H11BrN2S
product | 2-[2-(3-bromo-2-pyridylmethylthio)-ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone | BrC=1C(=NC=CC1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C18H18BrN5OS
